US09302989B2
tert-butyl (1-(4-nitrophenyl)azetidin-3-yl)methylcarbamate
A solution of 1-fluoro-4-nitrobenzene (0.61 g, 4.32 mmol) and tert-butyl azetidin-3-ylmethylcarbamate (0.886 g, 4.76 mmol) in dimethylformamide (8.65 ml) was treated with potassium carbonate (0.896 g, 6.48 mmol) and the suspension was heated at 55° C. (12 pm) for 3 hours and at ambient temperature for 16 hours. The reaction was poured into water and the suspension was filtered. The solid was washed with water and dried to provide the title compound.

reactant | 1-fluoro-4-nitrobenzene | 4.32 mmol, 0.61 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | tert-butyl azetidin-3-ylmethylcarbamate | 4.76 mmol, 0.886 g | N1CC(C1)CNC(OC(C)(C)C)=O | C9H18N2O2
reactant | potassium carbonate | 6.48 mmol, 0.896 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 8.65 ml | CN(C=O)C | C3H7NO
product | tert-butyl (1-(4-nitrophenyl)azetidin-3-yl)methylcarbamate | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(C1)CNC(OC(C)(C)C)=O | C15H21N3O4
